US09145392B2
Step 4: tert-butyl 4-(4-amino-6-(4-(4-(4-fluoro-3-methylphenyl)-1-(2-hydroxyethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazole-1-carboxylate
a mixture of 2-[2-[1-(6-amino-5-bromo-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-methyl-phenyl)-imidazol-1-yl]-ethanol (1333.00 mg; 2.80 mmol; 1.00 eq.), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester (1237.31 mg; 4.21 mmol; 1.50 eq.), Cs2CO3 (548 mg, 1.68 mmol) in doxane 10 ml and water 1 ml, purged with argon, added Pd(0) (tBu3)2 (143 mg, 0.28 mmol) stirred at 50° C. for overnight. LC-MS showed desired as major product, removed off solvent, purified by prep HPLC (Basic), collected title compound 400 mg, 25.4%

reactant | 2-[2-[1-(6-amino-5-bromo-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-methyl-phenyl)-imidazol-1-yl]-ethanol | 2.80 mmol, 1333.00 mg, 1.00 eq. | NC1=C(C(=NC=N1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCO)Br | C21H24BrFN6O
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester | 4.21 mmol, 1237.31 mg, 1.50 eq. | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
reactant | Cs2CO3 | 1.68 mmol, 548 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | 1 ml | O | H2O
product | tert-butyl 4-(4-amino-6-(4-(4-(4-fluoro-3-methylphenyl)-1-(2-hydroxyethyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazole-1-carboxylate | NC1=NC=NC(=C1C=1C=NN(C1)C(=O)OC(C)(C)C)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCO | C29H35FN8O3
